US04171361
A solution was prepared from 42.8 g. of S-methyl-S-[2-(pyrrolidinylcarbonylamino)-4,5-dimethoxyphenyl]sulfoximine and 1 l. of bromobenzene. The reaction mixture was heated to reflux temperature for three hours, and was then cooled and filtered. The filter cake was dissolved in 700 ml. of chloroform. The chloroform solution was cooled and 6,7-dimethoxy-1-methyl-1H-1,2,4-benzothiadiazine-3(4H)-one-1-oxide formed in the above reaction crystallized therefrom. The crystalline material melted at 326°-328° C. (91 percent yield).

reactant | S-methyl-S-[2-(pyrrolidinylcarbonylamino)-4,5-dimethoxyphenyl]sulfoximine | CS(=O)(=N)C1=C(C=C(C(=C1)OC)OC)NC(=O)N1CCCC1 | C14H21N3O4S
reactant | bromobenzene | BrC1=CC=CC=C1 | C6H5Br
product | 6,7-dimethoxy-1-methyl-1H-1,2,4-benzothiadiazine-3(4H)-one-1-oxide | COC=1C(=CC2=C(NC(NS2(C)=O)=O)C1)OC | C10H14N2O4S
